US07414060B2
Step 3: 3-tert-Butoxycarbonylamino-6-hydroxymethyl-pyridine-2-carboxylic acid ethyl ester:
To a solution of 0.99 g (2.92 mmol) of 6-Acetoxymethyl-3-tert-butoxycarbonylamino-pyridine-2-carboxylic acid ethyl ester in 15 ml of absolute ethanol was added 0.11 ml (0.3 mmol, 0.1 equiv.) of sodium ethylate 3N /Ethanol. After stirring for 1 h at room temperature, the mixture was extracted with methylene chloride/water. The aqueous phase was extracted three times with methylene chloride. The combined organic phases were dried over magnesium sulfate and concentrated to yield 0.81 g (2.7 mmol, 93%) of the title compound as an off-white solid, MS (ISP): m/e=297.3 (M+H+).

reactant | 6-Acetoxymethyl-3-tert-butoxycarbonylamino-pyridine-2-carboxylic acid ethyl ester | 2.92 mmol, 0.99 g | C(C)OC(=O)C1=NC(=CC=C1NC(=O)OC(C)(C)C)COC(C)=O | C16H22N2O6
reactant | sodium ethylate | 0.3 mmol, 3N, 0.11 ml, 0.1 equiv. | CC[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-tert-Butoxycarbonylamino-6-hydroxymethyl-pyridine-2-carboxylic acid ethyl ester | 2.7 mmol, 0.81 g, 93% | C(C)OC(=O)C1=NC(=CC=C1NC(=O)OC(C)(C)C)CO | C14H20N2O5
